US06933387B2
9-Bromo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole (3.5 g, 13.9 mmol) was dissolved in THF (15 mL) and trifluoroacetic acid (30 mL) and cooled to 0° C. Sodium borohydride (1 g, 27.9 mmol) was added in portions, the mixture was stirred for 90 min at room temperature and added to an ice/water mixture (150 mL). After addition of sodium hydroxide solution (28%, 35 mL) to render the mixture basic it was extracted with dichloromethane. Organic phases were pooled, washed with brine, dried with MgSO4 and the solvent was evaporated. Chromatography on silica gel (dichloromethane/methanol/ammonia 180:10:1) yielded 9-bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole (2.4 g, 68%) as a yellowish solid, MS: m/e=252.0 (M+).

reactant | 9-Bromo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 13.9 mmol, 3.5 g | BrC=1C=2C=C3N(C2C=CC1)CCNC3 | C11H11BrN2
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium borohydride | 27.9 mmol, 1 g | [BH4-].[Na+]
reactant | sodium hydroxide | 35 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 9-bromo-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole | 2.4 g, 68% | BrC=1C=2CC3N(C2C=CC1)CCNC3 | C11H13BrN2
